US08937083B2
Preparation of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(methylsulfonyl)-N-(prop-2-yn-1-yl)propanamide (Compound 618)
To a solution of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(methylthio)-N-(prop-2-yn-1-yl)propanamide (0.10 g, 0.30 mmol) and acetic acid (2.0 ml) was added sodium perborate tetrahydrate (0.11 g, 0.74 mmol) and the vial was heated to 65° C. for 2 h. The reaction mixture was cooled to ambient temperature and neutralized with saturated NaHCO3. The aqueous layer was extracted with EtOAc (3×). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The residue was purified using silica gel chromatography (0-20% MeOH/DCM) to afford the title compound as a yellow foam (84 mg, 0.21 mmol, 73%): 1H NMR (400 MHz, CDCl3) δ 9.00 (s, 1H), 8.65 (s, 1H), 8.29 (s, 1H), 8.03 (d, J=8.0 Hz, 1H), 7.54-7.39 (m, 1H), 4.89 (d, J=16.9 Hz, 1H), 4.20-4.08 (m, 1H), 4.07-3.92 (m, 1H), 3.01 (s, 3H), 2.34-2.29 (m, 1H), 1.67 (d, J=7.0 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 166.97, 166.90, 148.77, 140.43, 140.24, 135.58, 129.36, 126.64, 124.14, 121.34, 73.80, 60.91, 38.78, 36.29, 13.97; ESIMS m/z 367 ([M+H]+).

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(methylthio)-N-(prop-2-yn-1-yl)propanamide | 0.30 mmol, 0.10 g | ClC1=NN(C=C1N(C(C(C)SC)=O)CC#C)C=1C=NC=CC1 | C15H15ClN4OS
reactant | sodium perborate tetrahydrate | 0.74 mmol, 0.11 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(methylsulfonyl)-N-(prop-2-yn-1-yl)propanamide | 0.21 mmol, 84 mg, 73% | ClC1=NN(C=C1N(C(C(C)S(=O)(=O)C)=O)CC#C)C=1C=NC=CC1 | C15H15ClN4O3S
